US07915267B2
3-[3-(1H-1,2,4-triazol-1-yl)propoxy]benzonitrile
By a method similar to that in Reference Example 2, and using, instead of 3-[(2-chloroethyl)oxy]benzonitrile, 3-[(3-chloropropyl)oxy]benzonitrile obtained in Reference Example 4 and using, instead of 1H-1,2,4-triazole-3-thiol, 1H-1,2,4-triazole, the title compound was obtained as a colorless oil (750.0 mg, 32%).

reactant | 3-[(2-chloroethyl)oxy]benzonitrile | ClCCOC=1C=C(C#N)C=CC1 | C9H8ClNO
reactant | 3-[(3-chloropropyl)oxy]benzonitrile | ClCCCOC=1C=C(C#N)C=CC1 | C10H10ClNO
reactant | 1H-1,2,4-triazole-3-thiol | N1N=C(N=C1)S | C2H3N3S
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 3-[3-(1H-1,2,4-triazol-1-yl)propoxy]benzonitrile | N1(N=CN=C1)CCCOC=1C=C(C#N)C=CC1 | C12H12N4O
